US08669234B2
2-Amino-3-phenyl-propionic acid (1.65 g) was dissolved in 1 N NaOH (10 mL), and Na2CO3 (530 mg) was added. The mixture was cooled to 0° C. and methyl chloroformate was added slowly, and then stirred for overnight at room temperature. The mixture was washed with DCM and acidified with 3 mL of 2N HCl, and then was taken up in ether (200 mL). The organic phase was dried over sodium sulfate. Removing the solvent to give 2-Methoxycarbonylamino-3-phenyl-propionic acid (1.95 g, 87%) as an off-white solid.

reactant | 2-Amino-3-phenyl-propionic acid | 1.65 g | NC(C(=O)O)CC1=CC=CC=C1 | C9H11NO2
reactant | Na2CO3 | 530 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | NaOH | 1 N, 10 mL | [OH-].[Na+]
product | 2-Methoxycarbonylamino-3-phenyl-propionic acid | 1.95 g, 87% | COC(=O)NC(C(=O)O)CC1=CC=CC=C1 | C11H13NO4
